US07498337B2
methyl 2-chloro-5-(4-cyclohexylphenyl)-1H-pyrrole-3-carboxylate
14% Hydrogen chloride-1,4-dioxane solution (50 mL) was added to methyl 2-cyano-4-(4-cyclohexylphenyl)-4-oxobutanoate (12.1 g) and the mixture was stirred at room temperature for 8 hr and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from diisopropyl ether and collected by filtration to give a nearly 1:1 mixture (3.41 g) of the title compound and methyl 2-amino-5-(4-cyclohexylphenyl)-3-furoate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:2) to give the title compound as crystals (yield 0.64 g, 5%).

reactant | methyl 2-cyano-4-(4-cyclohexylphenyl)-4-oxobutanoate | 12.1 g | C(#N)C(C(=O)OC)CC(=O)C1=CC=C(C=C1)C1CCCCC1 | C18H21NO3
reactant | Hydrogen chloride-1,4-dioxane | 50 mL | O1CCOCC1.Cl
product | methyl 2-chloro-5-(4-cyclohexylphenyl)-1H-pyrrole-3-carboxylate | 3.41 g | ClC=1NC(=CC1C(=O)OC)C1=CC=C(C=C1)C1CCCCC1 | C18H20ClNO2
